US08106064B2
To a mixture of 2-Amino-4-methylpyridine (21.6 g, 0.2 mol) and phthalic anhydride (29.6 g, 0.2 mol) in toluene (160 ml), was added triethylamine (2.8 ml, 0.02 mol). The mixture was refluxed for 5 hr. After cooling to room temperature, the mixture was evaporated in vacuo and the residue was suspended in acetic anhydride (250 ml). The mixture was then heated to reflux for 4 hr until the solid dissolves completely. After cooling to room temperature, white precipitate was collected by filtration and washed with acetic anhydride and hexane, and dried in high vacuo to give 26.6 g (56%) of 2-(4-methyl-pyridin-2-yl)-isoindole-1,3-dione as a white solid. 1H NMR (200 MHz, CDCl3) δ 2.45 (3H, s), 7.18 (1H, d, J=5.0 Hz), 7.25 (1H, s), 7.76-7.99 (4H, m), 8.53 (1H, d, J=5.0 Hz). m/z (EI) 238 (M+).

reactant | 2-Amino-4-methylpyridine | 0.2 mol, 21.6 g | NC1=NC=CC(=C1)C | C6H8N2
reactant | phthalic anhydride | 0.2 mol, 29.6 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | triethylamine | 0.02 mol, 2.8 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 160 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-methyl-pyridin-2-yl)-isoindole-1,3-dione | 26.6 g, 56% | CC1=CC(=NC=C1)N1C(C2=CC=CC=C2C1=O)=O | C14H10N2O2
